US05827849
d) 3-Cyano-2-hydroxy-7-ethyl-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine
Prepared from 1-ethylhexahydro-4-azepinone by reaction with ethyl formate and cyanoacetamide in the presence of sodium hydride.

reactant | 1-ethylhexahydro-4-azepinone | C(C)N1CCC(CCC1)=O | C8H15NO
reactant | ethyl formate | C(=O)OCC | C3H6O2
reactant | cyanoacetamide | C(#N)CC(=O)N | C3H4N2O
reactant | sodium hydride | [H-].[Na+]
product | 3-Cyano-2-hydroxy-7-ethyl-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine | C(#N)C1=CC2=C(CCN(CC2)CC)N=C1O | C12H15N3O
